US07964608B2
4-Chloro-8-trifluoromethoxy-quinoline-3-carboxylic acid ethyl ester (250 mg, 0.94 mmol) was treated with cyclopentylamine following general procedure B to afford 4-cyclopentylamino-8-trifluoromethoxy-quinoline-3-carboxylic acid ethyl ester (220 mg). Thus obtained amino-ester was hydrolyzed to the corresponding acid using general procedure D and then transformed into the corresponding ethylamide (180 mg) following general procedure E. The above ethylamide (0.54 mmol) was subjected to reaction with methyl chloroformate according to general procedure F to furnish 1-cyclopentyl-3-ethyl-7-trifluoromethoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione (60 mg). LCMS: m/z 394 [M+1]+.

reactant | 4-Chloro-8-trifluoromethoxy-quinoline-3-carboxylic acid ethyl ester | 0.94 mmol, 250 mg | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1Cl)OC(F)(F)F | C13H9ClF3NO3
reactant | cyclopentylamine | C1(CCCC1)N | C5H11N
product | 4-cyclopentylamino-8-trifluoromethoxy-quinoline-3-carboxylic acid ethyl ester | 220 mg | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NC1CCCC1)OC(F)(F)F | C18H19F3N2O3
